US07384934B2
(R)-10-(4-Methyl-3-propoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Stir (R)-10-(3-allyloxymethyl-4-methyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (270 mg), 20% palladium hydroxide (Degaussa type, 15 mg) in ethanol (0.014M)) under hydrogen atmosphere (1 atm) for 4 hours at room temperature. Filter and evaporate the solvent to afford the title compound as a yellow solid (268 mg): 1H NMR (CDCl3) δ 0.90 (t, 3H), 1.58 (m, 2H), 2.30 (s, 3H), 2.33 (m, 2H), 2.39 (s, 3H), 2.84 (m, 2H), 3.14 (t, 1H), 3.38 (t, 2H), 3.49 (d, 1H), 3.58 (d, 1H), 3.95 (d, 1H), 4.07 (d, 1H), 4.94 (s, 1H), 6.31 (s, 1H), 6.60 (d, 1H), 6.85 (t, 1H), 6.95 (t, 1H), 7.02 (d, 1H); MS (ESI) m/z (rel intensity) 385 (100).

reactant | (R)-10-(3-allyloxymethyl-4-methyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 270 mg | C(C=C)OC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C21H26N4OS
solvent | ethanol | 0.014M | C(C)O | C2H6O
catalyst | palladium hydroxide | 15 mg | [OH-].[Pd+2].[OH-]
product | (R)-10-(4-Methyl-3-propoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 268 mg | CN1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)COCCC | C21H28N4OS
